US04940710
To a suspension of prewashed sodium hydride (76.8 g) in ether was added 189 g of diethylcarbonate. The mixture was heated to reflux and a solution of 131.84 g of 6-acetyl-1,3-dichloro-4-fluorobenzene in 1500 ml of ether was added dropwise over 5 hours. The mixture was then refluxed 24 hours, cooled, poured onto a mixture of ice and acetic acid and extracted several times with ether. The ether extracts were combined, washed with water, dried and evaporated. The residue was purified by vacuum distillation giving 80 g of ethyl 2,4-dichloro-5-fluorobenzoylacetate.

reactant | sodium hydride | 76.8 g | [H-].[Na+]
reactant | diethylcarbonate | 189 g | C(C)OC(OCC)=O | C5H10O3
reactant | 6-acetyl-1,3-dichloro-4-fluorobenzene | 131.84 g | C(C)(=O)C1=CC(=C(C=C1Cl)Cl)F | C8H5Cl2FO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
solvent | ether | 1500 ml | CCOCC | C4H10O
product | ethyl 2,4-dichloro-5-fluorobenzoylacetate | 80 g | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)Cl)F | C11H9Cl2FO3
